US07939539B2
To a mixture of 2-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide and sodium acetate (930 mg, 3 eq.) in acetic acid (15 ml), was added bromine (190 ul, 1 eq.). The reaction mixture was stirred at room temperature overnight. Water was added and the product was extracted into ethyl acetate. The ethyl acetate layer was washed several times with water, saturated sodium bicarbonate, saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated to give 2-bromo-2-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide (0.95 g) as a brown solid.

reactant | 2-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide | ClC1=CC=C2C(NC(=NC2=C1)CC(=O)N(C)C)=O | C12H12ClN3O2
reactant | sodium acetate | 930 mg, 3 eq. | C(C)(=O)[O-].[Na+]
reactant | bromine | 190 ul, 1 eq. | BrBr | Br2
reactant | Water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-2-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide | 0.95 g | BrC(C(=O)N(C)C)C1=NC2=CC(=CC=C2C(N1)=O)Cl | C12H11BrClN3O2
